US09163027B2
N-[2-(4-chlorophenoxy)ethyl]-5,7-dimethyl-[1,2,4]triazolo[1,5-a]pyrimidin-2-amine
The title compound was prepared according to the experimentals described for Example 18 above from 2-methanesulfonyl-5,7-dimethyl-[1,2,4]-triazolo[1,5-a]pyrimidine and 2-(4-chlorophenoxy)ethylamine in 26% yield; EM (calc.): 317.1; MS (ESI) m/e: 318.2 (M+H)+. 1H NMR (DMSO-d6, 400 MHz) δ ppm: 7.31 (dt, 2H), 7.03 (d, 1H), 6.98 (dt, 2H), 6.85 (s, 1H), 4.13 (t, 2H), 3.60 (q, 2H), 2.57 (s, 3H), 2.45 (s, 3H).

reactant | 2-methanesulfonyl-5,7-dimethyl-[1,2,4]-triazolo[1,5-a]pyrimidine | CS(=O)(=O)C1=NN2C(N=C(C=C2C)C)=N1 | C8H10N4O2S
reactant | 2-(4-chlorophenoxy)ethylamine | ClC1=CC=C(OCCN)C=C1 | C8H10ClNO
product | N-[2-(4-chlorophenoxy)ethyl]-5,7-dimethyl-[1,2,4]triazolo[1,5-a]pyrimidin-2-amine | 26% yield | ClC1=CC=C(OCCNC2=NN3C(N=C(C=C3C)C)=N2)C=C1 | C15H16ClN5O
